* Fuentes de Voltaje para el sistema. 

* Fuente V1
V1 vdd 0 Vdd1			
*V2 = 0-0-1-1
V2 A 0 PWL 0p 0 1.0u 0 1.001u Vdd1	
*V3 = 0-1-0-1
V3 B 0 PWL 0p 0 0.5u 0 0.501u Vdd1 1.0u Vdd1 1.001u 0 1.5u 0 1.501u Vdd1 


**PWL( T1 V1 T2 V2 T3 V3 ...
